Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
Chest tube placement (___) and removal (___).

 
History of Present Illness:
Patient is a ___ with history of CREST syndrome and active
smoking who presents as a transfer from ___ after
being found to have a large R pleural effusion.

Patient states that he experienced generalized fatigue with
drenching night sweats (enough to change his shirt/sheets) over
the past 1week.  Starting this past ___, patient noticed
that he would become short of breath with minimal exertion
(immediate improvement with rest).  No chest pain or
palpitations.  Patient does endorse a slight dry cough during
this time.  He decided to present to an urgent care center on
___, thinking that his seasonal allergies were acting up. 
After a physician listened to his lungs, patient was instructed
to have a CXR (which was apparently concerning for a large R
pleural effusion).  Patient was urged to present to the ___ early ___ to have a CT scan and undergo
additional evaluation.  Patient ultimately underwent a CTA 
chest,
which was NEG for PE, but did show a large R pleural effusion
with significant mass effect on the R lung (mediastinal/heart
leftward shift) in addition to mediastinal/hilar LAD and a
spiculated opacity in the left infrahilar region/spiculated
pleural-based abnormality in the left lung base.  Decision was
made to transfer patient to ___ ED for placement of a chest
tube in addition to evaluation as to the cause of his lung
findings.      

 
Past Medical History:
CREST syndrome (diagnosed at age ___, patient last saw a
rheumatologist in the ___) 
 
Social History:
___
Family History:
Mother died at age ___ (metastatic lung cancer).
Father alive and healthy at age ___. 
Lives with his wife.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: 99.0 128/77 90 18 91 on RA   
GENERAL: NAD, breathing comfortably on RA, pleasant in
conversation. 
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM. 
Erythematous macules in a malar distribution, also on his
forehead.  
NECK: No cervical/submandibular/submental/supraclavicular LAD. 
No thyromegaly.  No JVP elevation.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs.  
LUNGS: Decreased breath sounds over the R lower lung field, 
crackles bilaterally, poor air movement. 
ABDOMEN: +BS throughout, nondistended, nontender in all
quadrants, no rebound/guarding, no hepatosplenomegaly.  
EXTREMITIES: WWP.  No cyanosis, clubbing, or edema.  
PULSES: 2+ radial pulses bilaterally.  
NEURO: A&Ox3, moving all 4 extremities with purpose.  
SKIN: Facial erythematous macules as above, also telangiectasias 
across the chest, stomach, and back. 

DISCHARGE PHYSICAL EXAM: 
======================== 
VS: 24 HR Data (last updated ___ @ 1424)
    Temp: 98.5 (Tm 99.2), BP: 128/80 (109-135/65-87), HR: 88 
(78-92), RR: 16 (___), O2 sat: 93% (93-97), O2 delivery: Ra, 
Wt: 185.85 lb/84.3 kg  
GENERAL: NAD, breathing comfortably on RA, pleasant in
conversation, cleaning up room. 
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM. 
NECK: No palpable lymph nodes 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs.  
LUNGS: Normal WOB, crackles at right lung base.
ABDOMEN: Soft, nt/nd, no HSM  
EXTREMITIES: WWP.  No cyanosis, clubbing, or edema.  
NEURO: A&Ox3, normal speech, normal gait. Full strength/ROM in
all extremities. 
SKIN: Facial erythematous macules as above, also telangiectasias 
across the chest, stomach, and back. 

 
Pertinent Results:
===============
ADMISSION LABS:
___
___ 06:25PM BLOOD WBC-9.0 RBC-5.37 Hgb-15.6 Hct-45.0 MCV-84 
MCH-29.1 MCHC-34.7 RDW-13.1 RDWSD-39.7 Plt ___
___ 06:25PM BLOOD Neuts-77.9* Lymphs-13.6* Monos-5.9 
Eos-1.6 Baso-0.3 Im ___ AbsNeut-6.97* AbsLymp-1.22 
AbsMono-0.53 AbsEos-0.14 AbsBaso-0.03
___ 06:25PM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-25.1 ___
___ 06:25PM BLOOD Glucose-175* UreaN-13 Creat-0.8 Na-138 
K-4.3 Cl-101 HCO3-22 AnGap-15
___ 06:25PM BLOOD ALT-21 AST-24 LD(LDH)-306* AlkPhos-78 
TotBili-0.3
___ 06:25PM BLOOD proBNP-35
___ 06:25PM BLOOD Albumin-4.3
___ 07:20AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.2 Cholest-177
___ 02:38AM BLOOD %HbA1c-5.0 eAG-97
___ 06:36PM BLOOD Lactate-2.3*

======================
PLEURAL FLUID STUDIES:
======================
___ 12:21AM PLEURAL TNC-1593* ___ Polys-15* 
Lymphs-12* Monos-3* Eos-25* Macro-15* Other-30*
___ 12:21AM PLEURAL TotProt-4.9 Glucose-49 LD(LDH)-441 
Albumin-3.2
___ 03:15AM OTHER BODY FLUID ADENOSINE DEAMINASE, FLUID-PND

===============
DISCHARGE LABS:
===============
___ 06:55AM BLOOD WBC-9.5 RBC-5.19 Hgb-14.7 Hct-42.8 MCV-83 
MCH-28.3 MCHC-34.3 RDW-12.7 RDWSD-38.4 Plt ___
___ 06:55AM BLOOD Glucose-95 UreaN-12 Creat-0.8 Na-138 
K-4.4 Cl-97 HCO3-25 AnGap-16
___ 06:55AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.2

================
IMAGING STUDIES:
================
CT CHEST (___):
1. Patient is status post placement of right chest tube with 
interval decrease in now small right pleural effusion and 
improved aeration of the right lower lung though residual 
atelectasis persists. 
2. Multiple bilateral enlarged hilar and mediastinal lymph nodes 
measuring up to 1.7 cm in the left pulmonary ligament station.  
Differential diagnosis could include sarcoidosis versus lymphoma 
versus small-cell carcinoma, given smoking history. 
3. Left perihilar and basilar subsegmental atelectasis and 
moderate bilateral paraseptal emphysematous changes. 

=============
MICROBIOLOGY:
=============
__________________________________________________________
___ 12:21 am PLEURAL FLUID

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

 
Brief Hospital Course:
___ with CREST syndrome and active smoking who presents as a 
transfer from ___ with large R pleural effusion, now
s/p drainage with R chest tube, removed on ___.

ACUTE ISSUES: 
============= 
# Large R pleural effusion
Patient reports dyspnea on exertion starting ___. He noticed 
that he would become short of breath with minimal exertion, but 
this improved immediately with rest. Also endorsed cough, night 
sweats. O2 stable on room air. Considered infection (works in 
attics/basements as a ___) vs. malignancy (primary lung 
vs. lymphoma) vs. complication of CREST syndrome (pleural 
effusions have been reported with limited cutaneous sclerosis) 
vs. another autoimmune process (including sarcoidosis). Does 
have a significant smoking history which raises suspicion for 
malignancy. Additional findings on CT chest (LAD, spiculated 
opacities) are non-specific and may be found with any of the 
above. Chest tube was placed in the ED on admission, with 
pleural studies consistent with exudative effusion. Cytology of 
pleural fluid still pending at discharge. Pleural fluid cultures 
without growth to date, but also preliminary at discharge. 
Patient's symptoms were much improved after placement of chest 
tube, with over 2L fluid drained. Repeat imaging showed improved 
aeration of the right lower lung, though residual atelectasis 
persists. Chest tube removed ___ prior to discharge. Plan for 
endocbronchial biopsy with interventional pulmonology scheduled 
for ___. Patient will need to be NPO on ___ at midnight in 
preparation for the procedure. In the mean time, pain control at 
previous chest tube with tylenol and ibuprofen PRN. 

CHRONIC ISSUES:
===============
#CREST syndrome: Diagnosed at age ___, patient last saw a 
rheumatologist in the ___. Reports telangiectasias, dysphagia, 
and Raynauds phenomenon. Not currently on any medications at 
home. 

TRANSITIONAL ISSUES:
====================
[ ] Please follow up pleural fluid cytology and pleural fluid 
cultures. Results pending at discharge. 
[ ] Patient will need endobronchial biopsy of concerning 
findings on CT chest. This is scheduled for ___ with 
interventional pulmonology. The interventional pulmonology 
department will call the patient within the next ___ days to 
confirm timing of the procedure. Patient should be NPO starting 
___ at midnight in preparation for procedure.
[ ] Patient was found to have esophageal thickening on CT chest. 
Would recommend upper endoscopy as an outpatient for further 
evaluation. 
[ ] CT chest also notable for a subcentimeter liver dome 
hypodensity which may reflect a hepatic cyst versus biliary 
hamartoma. Recommendation for multiphase pre and post contrast 
hepatic CT or MRI for further evaluation as an outpatient. 
[ ] Follow up with primary care provider ___ ___.
[ ] Tylenol and lidocaine patch PRN pain.

#CONTACT: ___ ___ (wife)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD DAILY 
RX *lidocaine [Lidoderm] 5 %  once a day Disp #*10 Patch 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Pleural effusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had shortness of breath.  

What happened while I was in the hospital?  
- You were found to have fluid in your chest which was not 
allowing your right lung to expand. This was causing  you to be 
short of breath at home. A chest tube was placed while you were 
in the hospital to drain this fluid. 
- We also repeated a CT scan of your lungs after we drained the 
fluid to get a better look at your lungs. There are some 
concerning findings on this CT scan which could represent 
inflammation vs. infection vs. cancer. You will need a lung 
biopsy for further evaluation of these findings. This is 
scheduled for ___. Our interventional pulmonologists, who 
will be doing the biopsy, will call you within the next ___ days 
to confirm timing of the procedure.

What should I do after leaving the hospital?  
- Follow up with our interventional pulmonologists on ___ for 
biopsy of your lung.
- Please do not eat or drink anything after midnight on ___ in 
preparation for the procedure.
- Our interventional pulmonologists, who will be doing the 
biopsy, will call you within the next ___ days to confirm timing 
of the procedure. If you do not hear from them, please call 
___.
- Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Team  

 
Followup Instructions:
___